US04452990
Twenty-eight grams of dihydro 1H-pyrrolizine-3,5 (2H, 6H) dione is dissolved in 100 g of methyl alcohol and 0.2 ml of concentrated hydrochloric acid is added. The solution is heated at reflux for 104 hours. The mixture is cooled and excess methyl alcohol is distilled at reduced pressure. The residual oil is dissolved in 1 of anhydrous diethylether, 1 g of activated charcoal is added and the resulting suspension is filtered through filter aid. The filtrate is concentrated at reduced pressure and the resulting crystals are isolated by filtration. Recrystallization from methanol yields 5-oxo-2-pyrrolidinepropanoic acid methyl ester with a melting point of 52°-53° C.

reactant | dihydro 1H-pyrrolizine-3,5 (2H, 6H) dione | Twenty-eight grams | C1CC(N2C(CCC12)=O)=O | C7H9NO2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | methyl alcohol | 100 g | CO | CH4O
product | 5-oxo-2-pyrrolidinepropanoic acid methyl ester | COC(CCC1NC(CC1)=O)=O | C8H13NO3
